US08030489B2
tert-Butyl [(1S,2R)-2-cyanocyclopentyl]carbamate (415 mg) and hydrochloric acid hydroxylamine (411 mg) were suspended in ethanol (6.2 ml), triethylamine (0.83 ml) was added thereto at room temperature, and the reaction mixture was then stirred at 70° C. for 24 hours. The reaction mixture was left to be cooled, and hydrochloric acid hydroxylamine (411 mg) and triethylamine (0.83 ml) were added thereto, followed by stirring at 75° C. for an additional 48 hours. The reaction mixture was left to be cooled, and water (30 ml) was added thereto, followed by extraction with ethyl acetate (40 ml). The organic layer was washed with a saturated sodium bicarbonate solution and saturated brine in this order and dried over anhydrous magnesium sulfate. The solvent was then removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography (1.5% methanol-chloroform) to obtain tert-butyl {(1S,2R)-2-[amino(hydroxyimino)methyl]cyclopentyl}carbamate (315 mg) as a white solid.

reactant | tert-Butyl [(1S,2R)-2-cyanocyclopentyl]carbamate | 415 mg | C(#N)[C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C11H18N2O2
reactant | hydrochloric acid hydroxylamine | 411 mg | NO.Cl
reactant | triethylamine | 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid hydroxylamine | 411 mg | NO.Cl
reactant | triethylamine | 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | water | 30 ml | O | H2O
solvent | ethanol | 6.2 ml | C(C)O | C2H6O
product | tert-butyl {(1S,2R)-2-[amino(hydroxyimino)methyl]cyclopentyl}carbamate | 315 mg | NC([C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O)=NO | C11H21N3O3
